Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for Pulmonary Embolism
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ without significant past medical history presenting as a
transfer for PE.

Patient is a poor historian, but reports increasing lower
extremity weakness and occasional falls, without headstrike or
LOC. He thinks he may have also had SOB with exertion. Denies
cough and hemoptysis. No recent chest pain, fevers/chills,
nausea/vomiting. He presented to ___ and had CTA that 
showed
bilateral PE with some right ventricular strain. Patient was
transferred to ___ for further evaluation.

In ED, initial VS: T 99.5 HR 88 BP 132/90 RR 16 O2 sat 95% RA.
Remained hemodynamically stable. BNP noted to be >6000. MASCOT
consulted and felt no intervention indicated. Heparin gtt was
continued, and patient was transferred to medical floor.

 
Past Medical History:
Patient reports none
 
Social History:
___
Family History:
No family history of blood clot early MI, arrhythmia, 
cardiomyopathies, or sudden cardiac death.  

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 97.6 BP 132/72 HR 73 RR 20 O2 sat 94 2L 
GENERAL: Lying in bed comfortably, not in distress.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. Xanthelasma
noted.  
NECK: Supple without visible JVD
CARDIAC: Normal S1S2, irregular rhythm, no murmurs
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, well-perfused, no lower extremity edema

DISCHARGE PHYSICAL EXAMINATION:  
VS: 98.7 PO BP 104/67 HR 67 RR 18 O2 96 RA 
GENERAL: sitting in chair comfortably, no distress, pleasant and
conversant 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple without visible JVD
CARDIAC: regular rate and rhythm, no rubs murmurs or gallops
LUNGS: CTABL, no wheezes or crackles.  
ABDOMEN: Soft, NTND, obese. No HSM or tenderness.  
EXTREMITIES: left knee red bruise from fall, no cyanosis 
clubbing
or edema
 
Pertinent Results:
ADMISSION LABS:
=============
___ 08:02AM BLOOD WBC-9.0 RBC-5.27 Hgb-15.2 Hct-46.4 MCV-88 
MCH-28.8 MCHC-32.8 RDW-13.1 RDWSD-42.0 Plt ___
___ 06:03PM BLOOD Glucose-287* UreaN-13 Creat-1.2 Na-133 
K-3.8 Cl-90* HCO3-25 AnGap-18*
___ 06:03PM BLOOD ___ PTT-150* ___
___ 08:02AM BLOOD ALT-11 AST-17 LD(LDH)-270* AlkPhos-117 
TotBili-1.2
___ 06:03PM BLOOD proBNP-6105*
___ 06:03PM BLOOD Calcium-8.4 Phos-4.7* Mg-1.9

DISCHARGE LABS:
=============
___ 04:25AM BLOOD WBC-9.4 RBC-4.99 Hgb-14.4 Hct-44.5 MCV-89 
MCH-28.9 MCHC-32.4 RDW-13.1 RDWSD-42.5 Plt ___
___ 06:11AM BLOOD ___ PTT-61.6* ___
___ 04:25AM BLOOD Glucose-220* UreaN-11 Creat-1.1 Na-135 
K-4.4 Cl-95* HCO3-27 AnGap-13
___ 06:11AM BLOOD ALT-10 AST-12 LD(LDH)-200 AlkPhos-112 
TotBili-1.0
___ 04:25AM BLOOD Calcium-8.3* Phos-3.8 Mg-2.1
___ 11:45AM BLOOD %HbA1c-9.9* eAG-237*

IMAGING RESULTS:
=============
___ ECHO
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size, with low normal global systolic function (LVEF 50-55%). 
The right ventricular cavity is moderately dilated with severe 
global free wall hypokinesis. There is abnormal diastolic septal 
motion/position consistent with right ventricular volume 
overload. The aortic root is mildly dilated at the sinus level. 
The ascending aorta is moderately dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is severe pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Marked right ventricular cavity dilation with severe 
free wall hypokinesis. Severe pulmonary artery systolic 
hypertension. Moderately dilated ascending aorta. Normal left 
ventricular cavity size and free wall motion with low normal 
global systolic function. 

CT ANGIOGRAM OF THE CHEST PERFORMED AT OUTSIDE HOSPITAL
 
Brief Hospital Course:
___ without significant PMH (has not seen a physician in ___ 
years, takes no medications) presenting with bilateral 
submassive PE with evidence of right heart strain. 

ACTIVE ISSUES: 
==============
# Submassive PE: Bilateral PEs with evidence of right heart 
strain without hypotension/shock. PE likely unprovoked based on 
history. Patient is not up-to-date on age appropriate cancer 
screening. He was anticoagulated on a heparin drip then 
transitioned to xarelto 15 mg BID. He will take this dose for 21 
days (until ___, at which point he will change his dose 
to 20 mg daily. He will require age appropriate cancer screening 
and if that is all negative, he may require a hematology 
referral for a hypercoagulability work up. He will likely 
require life-long anticoagulation in the setting of an 
unprovoked PE.  A follow-up echocardiogram in 3 months 
concurrent with an outpatient cardiology appointment with Dr. 
___ be scheduled to assess for any improvement 
in right ventricular systolic function and/or a decrease in 
pulmonary artery hypertension.

#Diabetes Mellitus. A1c 9.9% this admission. New diagnosis,
poorly controlled. maintained on 12 U glargine and ISS. Not 
discharged on insulin, will require close endocrinology follow 
up.

#Possible Coagulopathy: INR 2.5, though patient apparently not 
on
warfarin. Corrected to 1 the following lab check. Likely initial
value was lab error. 

CHRONIC/STABLE ISSUES: 
=================================
#CAD risk prevention:
-Continue ASA

#OSA. Desats to ___ at night, improves to ___ when awake. Will 
need sleep medicine referral as
outpatient

>30 minutes spent on discharge planning/coordination of care.

TRANSITIONAL ISSUES:
====================
[ ] Age-appropriate cancer screening given unprovoked PE
[ ] If age-appropriate cancer screening negative, will need 
hematology referral for a hypercoagulability work up.
[ ] Continue xarelto 15 mg BID until ___ (21 days), then 
change dose to 20 mg daily indefinitely given unprovoked PE.
[ ] Urgent endocrinology appointment given new diagnosis of 
diabetes (A1c 9.9%)
[ ] Referral to sleep medicine given patient had desaturations 
to ___ when sleeping and elevated pulmonary pressure greater 
than would be suggested by acute pulmonary embolism alone 
suggestive of OSA
[ ] Follow up with Dr. ___ in cardiology (___) 
in 3 months with concurrent echocardiogram to assess improvement 
in right ventricular size/systolic function, as well as 
potential decrease in pulmonary pressure.

# CODE STATUS: Full
# CONTACT: Son ___ ___
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Glucosamine (glucosamine sulfate) 500 mg oral unknown 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tab(s) by 
mouth (15 mg) twice daily for 21 days, then 1 tab (20mg) daily 
Disp #*1 Dose Pack Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Glucosamine (glucosamine sulfate) 500 mg oral unknown  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
SUBMASSIVE PULMONARY EMBOLISMS
DIABETES MELLITUS

SECONDARY DIAGNOSIS
===================
OBSTRUCTIVE SLEEP APNEA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
here at ___. 

Why was I admitted to the hospital?
-You were found to have blood clots in your lung that were 
causing you chest discomfort

What happened while I was admitted to the hospital?
-You had a CT scan that identified the blood clots in your lungs
-You were treated with medications to thin your blood and treat 
your blood clots
-You were found to have newly diagnosed poorly-controlled 
diabetes

What should I do when I get home?
-You should go to your primary doctor's appointment (Dr. ___ 
on ___. From there you should ask for a referral to sleep 
medicine and endocrinology for management of your sleep apnea 
and diabetes.

We wish you the very best,
Your ___ cardiology team
 
Followup Instructions:
___